US05008426
16. 6-(2-Chlorobenzoyl)-(6H)-dibenz[c,e][1,2]oxaphosphorin 6-oxide
52.5 g (0.3 mol) of 2-chlorobenzoyl chloride were warmed to 80° C. under a nitrogen atmosphere. 69 g (0.3 mol) of 6-methoxy-(6H)-dibenz[c,e][1,2]oxaphosphorin were added dropwise while stirring. During the dropwise addition, the mixture was cooled to 60° C., and the temperature was then kept at 60°-70° C. When the reaction was complete, 40 ml of toluene were added at 45° C. 92 g (89% of theory) of the abovementioned compound of melting point 108° to 110° C. were obtained.

reactant | 2-chlorobenzoyl chloride | 0.3 mol, 52.5 g | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | 6-methoxy-(6H)-dibenz[c,e][1,2]oxaphosphorin | 0.3 mol, 69 g | COP1OC2=C(C3=C1C=CC=C3)C=CC=C2 | C13H11O2P
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 6-(2-Chlorobenzoyl)-(6H)-dibenz[c,e][1,2]oxaphosphorin 6-oxide | ClC1=C(C(=O)P2(OC3=C(C4=C2C=CC=C4)C=CC=C3)=O)C=CC=C1 | C19H12ClO3P
